Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right open ankle fracture
 
Major Surgical or Invasive Procedure:
___: ORIF R ankle fracture

 
History of Present Illness:
___ with PMHx of anxiety presenting to the ED with right ankle 
pain after being run over by a vehicle. The patient reports he 
was run over by a slow moving vehicle, tires ran over his R 
ankle. The patient developed significant pain over R ankle with 
an open wound medially. He denies any numbness/weakness in his 
toes. He did sustain a few abrasion to his upper extremities but 
denies any other injuries. 
 
Past Medical History:
Left ear surgery about ___ years ago (uncertain of details)
Anxiety
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
No acute distress
Unlabored breathing
Abdomen soft, non-tender, non-distended
Incision clean/dry/intact with no erythema or discharge, minimal 
ecchymosis
Cast in place, clean, dry, and intact in dorsiflexion, inversion 
with window over incision.
Right lower extremity fires ___
Right lower extremity SILT superficial peroneal, deep peroneal 
and tibial distributions
Right lower extremity dorsalis pedis pulse 2+ with distal digits 
warm and well perfused
 
Pertinent Results:
___ 11:24AM BLOOD WBC-9.9 RBC-4.95 Hgb-14.7 Hct-45.1 MCV-91 
MCH-29.7 MCHC-32.6 RDW-13.7 RDWSD-45.4 Plt ___

Xray R ankle ___: There is an acute slightly displaced fracture 
of the medial malleolus.  The distal fracture fragment is 
slightly medially displaced and angulated.  There is no other 
fracture identified.  Ankle mortise is preserved on these 
nonstress views. 

Xray R ankle ___: Intraoperative images were obtained during 
ORIF of right ankle fracture.  Please refer to the operative 
note for details of the procedure. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have an open right ankle fracture and was admitted to the 
orthopedic surgery service. The patient was splinted in the 
emergency department with a betadyne soaked splint.  The patient 
was given a tetanus shot and maintained on ancef overnight.  The 
patient was taken to the operating room the morning of ___ for 
ORIF R ankle fracture, which the patient tolerated well. For 
full details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to home was appropriate. The patient 
was transitioned from his splint to a cast moldedin dorsiflexion 
and inversion with a window for the incision.  The incision 
appeared clean, dry and intact. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non-weight bearing in the right lower extremity, and will be 
discharged on lovenox for DVT prophylaxis. The patient will 
follow up with Dr. ___ in one week for wound check. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Discharge Medications:
1. Crutches
Diagnosis: Right ankle fracture
Prognosis: Good
Duration: 13 months
___: ___
2. ALPRAZolam 1 mg PO TID 
3. Cephalexin 500 mg PO Q8H Duration: 10 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth Every 8 hours Disp 
#*30 Capsule Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice daily 
Disp #*60 Capsule Refills:*0
5. Enoxaparin Sodium 40 mg SC QHS Duration: 28 Days 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 1 syinge Subcutaneously Every night 
Disp #*28 Syringe Refills:*0
6. Gabapentin 100 mg PO TID 
7. Omeprazole 20 mg PO DAILY 
8. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every ___ hours Disp 
#*90 Tablet Refills:*0
9. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth Twice daily 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R open ankle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- NWB RLE

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Cast must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get cast wet

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns
 
Followup Instructions:
___